US08071586B2
C) (S)-1-[3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-3-methyl-piperazin-2-one
A solution of (S)-4-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester (950 mg, 2.29 mmol) in methanol (25 ml) was stirred for 5 h under a hydrogen atmosphere (1 bar) in the presence of palladium (10% on activated charcoal, 243 mg), then insoluble material was removed by filtration and the filtrate evaporated to produce the title compound (642 mg, 100%). Orange oil, MS (ISP)=282.3 (M+H)+.

reactant | (S)-4-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester | 2.29 mmol, 950 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(CC1)CCCN1C[C@H](C2(CC2)CC1)O)=O)C | C23H33N3O4
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium | 243 mg | [Pd] | Pd
product | (S)-1-[3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-3-methyl-piperazin-2-one | 642 mg, 100% | O[C@H]1C2(CC2)CCN(C1)CCCN1C([C@@H](NCC1)C)=O | C15H27N3O2
